US06288096B1
1.5 g (4.7 mmole) 4-[2-(4-formylphenoxy)ethyl]phenyl methanesulfonate, 0.68 g (5.8 mmole) 2,4-thiazolidinedione and 0.96 g (11.8 mmole) sodium acetate were mixed and heated under vacuum to 155° C. The reaction mixture melted and was removed from the heat after 15 minutes. Water/acetone (2:1) was added and the mixture was stirred for 1 h. Filtration gave 1.67 g (yield 83%) of 5-(4-[2-(4-methanesulfonyloxyphenyl)-ethoxy]benzylidene)thiazolidine-2,4-dione as yellow crystals.

reactant | 4-[2-(4-formylphenoxy)ethyl]phenyl methanesulfonate | 4.7 mmole, 1.5 g | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C16H16O5S
reactant | 2,4-thiazolidinedione | 5.8 mmole, 0.68 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium acetate | 11.8 mmole, 0.96 g | C(C)(=O)[O-].[Na+]
product | 5-(4-[2-(4-methanesulfonyloxyphenyl)-ethoxy]benzylidene)thiazolidine-2,4-dione | 1.67 g, yield 83% | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H17NO6S2
